US04125383
96 g (0.339 mole) isostearic acid
Then 200 ml. xylene was added and 100 g n-C18 -isocyanate (0.339 mole) was dispersed in the mixture with stirring. The temperature was about 45° C. and the mixture was allowed to cool to about 28° C. The mixture containing a little floc was filtered and solvent removed by "Rotavapor". The solid was dissolved in cyclohexane, filtered and again recovered by solvent evaporation. It was again washed with cyclohexane to give a white, waxy solid. Nitrogen content was 8.6 wt. %.

reactant | isocyanate | 0.339 mole | [N-]=C=O
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | isostearic acid | C(CCCCCCCCCCCCCCC(C)C)(=O)O | C18H36O2
